US07951811B2
To a solution of 2-{1-[1-(4-bromo-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]-piperidin-4-yl}-ethanol (0.93 g), which was prepared in the similar method as shown in example 1, in CHCl3 (10 mL), was added methanesulfonyl chloride (0.47 g) and pyridine (0.64 g) and the mixture was stirred at room temperature for 3 hours. Water was added into the reaction mixture and the mixture was extracted with CHCl3. The organic phase was washed with water and brine, dried over Na2SO4 and filtered. The filtrate was concentrated under reduced pressure to obtain a brown oil. The oily product was crystallized from diisopropylether to obtain methanesulfonic acid 2-{1-[1-(4-bromo-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]-piperidin-4-yl}-ethyl ester (1.0 g).

reactant | 2-{1-[1-(4-bromo-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]-piperidin-4-yl}-ethanol | 0.93 g | BrC1=CC(=C(C(=C1)C)N1C=C(C=2C1=NC(=CC2N2CCC(CC2)CCO)C)C)C | C24H30BrN3O
reactant | methanesulfonyl chloride | 0.47 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 0.64 g | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | methanesulfonic acid 2-{1-[1-(4-bromo-2,6-dimethyl-phenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]-piperidin-4-yl}-ethyl ester | 1.0 g | BrC1=CC(=C(C(=C1)C)N1C=C(C=2C1=NC(=CC2N2CCC(CC2)CCOS(=O)(=O)C)C)C)C | C25H32BrN3O3S
